US07807671B2
To a sealable flask containing ethyl 3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxylate (0.058 g, 0.10 mmol) was added N1,N1-dimethylpropane-1,3-diamine (0.7 mL). The mixture was sealed and heated to 50° C. for 20.5 h. The mixture was cooled to rt, and was diluted with DMF and was passed through a plug of celite to remove any solids. The DMF solution was purified by prep HPLC to give N-(3-(dimethylamino)propyl)-3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxamide.TFA. (0.020 g) as an off-white solid. LCMS: m/e 629.5 (M+H)+, ret time 1.93 min (method 2). 1H NMR (500 MHz, MeOD) δ ppm 8.75 (s, 1 H) 8.61 (s, 1 H) 7.97-8.11 (m, 5 H) 7.79 (s, 1 H) 4.69 (s, 3 H) 4.21-4.25 (m, 2 H) 4.01-4.04 (m, 2 H) 3.91 (t, J=6.26 Hz, 2 H) 3.76-3.82 (m, J=3.66 Hz, 2 H) 3.65-3.75 (m, 10 H) 2.45-2.52 (m, 2 H).

reactant | ethyl 3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxylate | 0.10 mmol, 0.058 g | FC1=C2C(=C(N=C1)C1=NN(C(=C1)C(=O)OCC)C)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C27H25FN10O4
reactant | N1,N1-dimethylpropane-1,3-diamine | 0.7 mL | CN(CCCN)C | C5H14N2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(3-(dimethylamino)propyl)-3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxamide | CN(CCCNC(=O)C1=CC(=NN1C)C=1N=CC(=C2C1NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O)F)C | C30H33FN12O3
